US07807672B2
Preparation of 4-(3-Bromo-phenyl)-piperazine-1-carboxylic acid tert-butyl ester
To a solution of 4-(3-bromo-phenyl)-piperidine (2.8 g, 12 mmol), triethylamine (2.4 g, 24 mmol) and DMAP (150 mg, 1.2 mmol) in acetonitrile (15 ml) was added di-tert-butyl dicarbonate. The resulted reaction mixture was stirred at RT for 3 hours. Then water (20 mL) was added and the formed slurry was stirred for 30 min. The formed product was collected by filtration and washed with water. After dry in air, 3.8 g product was obtained (95% yield).

reactant | 4-(3-bromo-phenyl)-piperidine | 12 mmol, 2.8 g | BrC=1C=C(C=CC1)C1CCNCC1 | C11H14BrN
reactant | triethylamine | 24 mmol, 2.4 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 20 mL | O | H2O
reactant | acetonitrile | 15 ml | C(C)#N | C2H3N
catalyst | DMAP | 1.2 mmol, 150 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-(3-Bromo-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 3.8 g, 95% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=CC=C1)Br | C15H21BrN2O2
